US07425634B2
(24b) 2,3-dimethyl-4-((1-methyl-2,6,7-trioxabicyclo[2.2.2]oct-4-yl)methoxy)pyridine1-oxide
To a dimethylsulfoxide solution (30 ml) of the (1-methyl-2,6,7-trioxabicyclo[2.2.2]oct-4-yl)methanol (4.5 g, 28.1 mmol) obtained in the step (24a), sodium hydride, in oil (1.29 g, 29.5 mmol as the content was regarded as 55%) was added at room temperature. To the mixture, 4-chloro-2,3-dimethylpyridine 1-oxide (3.99 g, 25.3 mmol) was added, which was stirred at 60° C. for 3 hours. After cooled to room temperature, the reaction mixture was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent: ethyl acetate/methanol) to obtain the title compound (7.46 g, yield: 81%) as a yellow oil.

reactant | (1-methyl-2,6,7-trioxabicyclo[2.2.2]oct-4-yl)methanol | 28.1 mmol, 4.5 g | CC12OCC(CO1)(CO2)CO | C7H12O4
reactant | sodium hydride | [H-].[Na+]
reactant | 4-chloro-2,3-dimethylpyridine 1-oxide | 25.3 mmol, 3.99 g | ClC1=C(C(=[N+](C=C1)[O-])C)C | C7H8ClNO
solvent | dimethylsulfoxide | 30 ml | CS(=O)C | C2H6OS
product | 2,3-dimethyl-4-((1-methyl-2,6,7-trioxabicyclo[2.2.2]oct-4-yl)methoxy)pyridine1-oxide | 7.46 g, yield: 81% | CC1=[N+](C=CC(=C1C)OCC12COC(OC1)(OC2)C)[O-] | C14H19NO5
